**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Push-Pull Transformers 
* Matchcode:              WE-PPTI
* Library Type:           LTspice
* Version:                rev24c
* Created/modified by:    Ella      
* Date and Time:          2024-03-11
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2024 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************

.subckt	750313626		1  2  3  6  5  4		
.param RxLkg=139.17ohm					
.param Leakage=0.22uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	104.89uH	Rser=160mohm	
Lpri2	2a	3	104.89uH	Rser=160mohm	
Lsec1	6	5	420uH	Rser=225mohm	
Lsec2	5	4	420uH	Rser=225mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=29.75pf					
.param Cprm2=29.55pf					
.param Rdmp1=66421.41ohm					
.param Rdmp2=66421.41ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750313638		1  2  3  6  5  4		
.param RxLkg=340.21ohm					
.param Leakage=0.29uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	104.855uH	Rser=150mohm	
Lpri2	2a	3	104.855uH	Rser=150mohm	
Lsec1	6	5	186.667uH	Rser=150mohm	
Lsec2	5	4	186.667uH	Rser=150mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=8.65pf					
.param Cprm2=8.85pf					
.param Rdmp1=123180.34ohm					
.param Rdmp2=123180.34ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750313734		1  2  3  6  5  4		
.param RxLkg=475.5ohm					
.param Leakage=0.35uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	104.825uH	Rser=145mohm	
Lpri2	2a	3	104.825uH	Rser=145mohm	
Lsec1	6	5	129.63uH	Rser=130mohm	
Lsec2	5	4	129.63uH	Rser=130mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=6.45pf					
.param Cprm2=6.45pf					
.param Rdmp1=142649.1ohm					
.param Rdmp2=142649.1ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750313769		1  2  3  6  5  4		
.param RxLkg=214.31ohm					
.param Leakage=0.25uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	104.875uH	Rser=145mohm	
Lpri2	2a	3	104.875uH	Rser=145mohm	
Lsec1	6	5	291.667uH	Rser=185mohm	
Lsec2	5	4	291.667uH	Rser=185mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=16.2pf					
.param Cprm2=16.2pf					
.param Rdmp1=90010.21ohm					
.param Rdmp2=90010.21ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750343725		1  2  3  6  5  4		
.param RxLkg=97.29ohm					
.param Leakage=0.35uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	95.825uH	Rser=160mohm	
Lpri2	2a	3	95.825uH	Rser=160mohm	
Lsec1	6	5	1441.5uH	Rser=410mohm	
Lsec2	5	4	1441.5uH	Rser=410mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=168.5pf					
.param Cprm2=168.5pf					
.param Rdmp1=26686.15ohm					
.param Rdmp2=26686.15ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750342879		1  2  3  6  5  4		
.param RxLkg=121.97ohm					
.param Leakage=0.33uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	99.835uH	Rser=150mohm	
Lpri2	2a	3	99.835uH	Rser=150mohm	
Lsec1	6	5	1225uH	Rser=340mohm	
Lsec2	5	4	1225uH	Rser=340mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=91.5pf					
.param Cprm2=91.5pf					
.param Rdmp1=36960.84ohm					
.param Rdmp2=36960.84ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750343341		1  2  3  6  5  4		
.param RxLkg=149.4ohm					
.param Leakage=0.25uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	69.875uH	Rser=140mohm	
Lpri2	2a	3	69.875uH	Rser=140mohm	
Lsec1	6	5	462.857uH	Rser=230mohm	
Lsec2	5	4	462.857uH	Rser=230mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=50pf					
.param Cprm2=50pf					
.param Rdmp1=41832.88ohm					
.param Rdmp2=41832.88ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750315229		1  2  3  6  5  4		
.param RxLkg=226.87ohm					
.param Leakage=0.182uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	383.909uH	Rser=105mohm	
Lpri2	2a	3	383.909uH	Rser=105mohm	
Lsec1	6	5	303.407uH	Rser=114mohm	
Lsec2	5	4	303.407uH	Rser=114mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=2.095pf					
.param Cprm2=0pf					
.param Rdmp1=478661.7ohm					
.param Rdmp2=478661.7ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750315230		1  2  3  6  5  4		
.param RxLkg=168.19ohm					
.param Leakage=0.164uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	95.918uH	Rser=140mohm	
Lpri2	2a	3	95.918uH	Rser=141mohm	
Lsec1	6	5	50.777uH	Rser=161mohm	
Lsec2	5	4	50.777uH	Rser=161mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=12.38pf					
.param Cprm2=12.38pf					
.param Rdmp1=98453.19ohm					
.param Rdmp2=98453.19ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750315231		1  2  3  6  5  4		
.param RxLkg=237.3ohm					
.param Leakage=0.274uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	95.863uH	Rser=141mohm	
Lpri2	2a	3	95.863uH	Rser=140mohm	
Lsec1	6	5	36.355uH	Rser=161mohm	
Lsec2	5	4	36.355uH	Rser=161mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=17.36pf					
.param Cprm2=17.36pf					
.param Rdmp1=83141.32ohm					
.param Rdmp2=83141.32ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750315232		1  2  3  6  5  4		
.param RxLkg=125.99ohm					
.param Leakage=0.175uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	95.913uH	Rser=205mohm	
Lpri2	2a	3	95.913uH	Rser=205mohm	
Lsec1	6	5	24uH	Rser=175mohm	
Lsec2	5	4	24uH	Rser=175mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=25.12pf					
.param Cprm2=25.12pf					
.param Rdmp1=69116.65ohm					
.param Rdmp2=69116.65ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends					

.subckt	750320340		1  2  3  6  5  4		
.param RxLkg=114.37ohm					
.param Leakage=0.389uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	75.806uH	Rser=20000mohm	
Lpri2	2a	3	75.806uH	Rser=20000mohm	
Lsec1	6	5	931uH	Rser=650mohm	
Lsec2	5	4	931uH	Rser=650mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=190.26pf					
.param Cprm2=190.26pf					
.param Rdmp1=22345.17ohm					
.param Rdmp2=22345.17ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends	

.subckt	750319845		1  2  3  6  5  4		
.param RxLkg=354.68ohm					
.param Leakage=0.3326uh					
Rlkg	1	1a	{RxLkg/2}		
L_Lkg	1	1a	{Leakage/2}	Rser=0.01mohm	
Rlkg2	2	2a	{RxLkg/2}		
L_Lkg2	2	2a	{Leakage/2}	Rser=0.01mohm	
Lpri1	1a	2	114.334uH	Rser=0.166mohm	
Lpri2	2a	3	114.334uH	Rser=0.166mohm	
Lsec1	6	5	277.062uH	Rser=0.1645mohm	
Lsec2	5	4	277.062uH	Rser=0.1645mohm	
K Lpri1 Lpri2   Lsec1 Lsec2       1					
.param Cprm1=9.6pf					
.param Cprm2=9.6pf					
.param Rdmp1=122101.48ohm					
.param Rdmp2=122101.48ohm					
Cpri1	1	2	{Cprm1}	Rser=10mohm	
Cpri2	2	3	{Cprm2}	Rser=10mohm	
Rdmp1	1	2	{Rdmp1}		
Rdmp2	2	3	{Rdmp2}		
Rg3	1	0	20meg		
Rg7	2	0	20meg		
Rg8	3	0	20meg		
Rg11	6	0	20meg		
Rg19	5	0	20meg		
Rg20	4	0	20meg		
.ends			